US08372851B2
Commercially available ethyl 5-amino-1H-pyrazole-4-carboxylate (5.0 g, 32 mmol) was taken into glacial acetic acid (3.2 mL) followed by addition of ethyl 3-oxo-3-phenylpropanoate (6.1 mL, 35 mmol) and the mixture was refluxed for 12 h. The mixture was allowed to cool to room temperature and concentrated in vacuo. The crude solid was recrystallized (ethanol) and collected to yield 3.1 g (61%) of crystalline ethyl 7-hydroxy-5-phenylpyrazolo[1,5-a]pyrimidine-3-carboxylate. 1H NMR (400 MHz, d6-DMSO): 11.75 (s, 1H), 8.28 (s, 1H), 7.80 (m, 2H), 7.61 (m, 3H), 6.28 (s, 1H), 4.31 (q, 2H), 1.34 (t, 3H).

reactant | ethyl 5-amino-1H-pyrazole-4-carboxylate | 32 mmol, 5.0 g | NC1=C(C=NN1)C(=O)OCC | C6H9N3O2
reactant | ethyl 3-oxo-3-phenylpropanoate | 35 mmol, 6.1 mL | O=C(CC(=O)OCC)C1=CC=CC=C1 | C11H12O3
solvent | acetic acid | 3.2 mL | C(C)(=O)O | C2H4O2
product | ethyl 7-hydroxy-5-phenylpyrazolo[1,5-a]pyrimidine-3-carboxylate | 3.1 g, 61% | OC1=CC(=NC=2N1N=CC2C(=O)OCC)C2=CC=CC=C2 | C15H13N3O3
